US09238640B2
To a mixture of 2-amino-5-nitro-benzoic acid (12.9 g, 81.9 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDCl) (17.3 g, 90.1 mmol), 1-hydroxybenzotriazole hydrate (HOBt) (12.2 g, 90.1 mmol) in THF (200 mL) was added 4-methylmorpholine (NMM) (9.91 mL, 90.1 mmol). After 10 minutes, ammonium hydroxide (50% v/v, 50 mL) was added. The mixture was stirred at room temperature under nitrogen for 17 hours. Solvent was removed under reduced pressure. Water was added. The solid separated was filtered, washed with aqueous NaHCO3 solution, and with water, and dried in air, to afford 2-amino-5-nitro-benzamide as a yellow solid. Yield: 9.88 g (66%).

reactant | 2-amino-5-nitro-benzoic acid | 81.9 mmol, 12.9 g | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 90.1 mmol, 17.3 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 90.1 mmol, 12.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methylmorpholine | 90.1 mmol, 9.91 mL | CN1CCOCC1 | C5H11NO
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-amino-5-nitro-benzamide | NC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H7N3O3
